US05753757
1,2-Di(p-bromophenyl)-1-acetoxyethane:
A mixture of 1,2-di(p-bromophenyl)-hydroxyethane (7.2 g, 0.02 mol), acetic anhydride (20 mL, 0.2 mol), pyridine (20 mL) was stirred at 60° C. for 30 min. The solution was then allowed to stand at room temperature for 2 days. The mixture was poured into ice water (250 g) and extracted with methylene chloride (150 mL). The organic phase was extracted with 5% aqueous sodium carbonate (100 mL×2), 5% aqueous hydrochloric acid (100 mL×2), water (100 mL×2), dried over sodium sulfate and concentrated to give an oil (5.5 g) which solidified upon standing. This was purified by passing through a short alumina column followed by recrystallization from hexanes to give the above white solid product (4.2 g): mp: 61-64° C.

reactant | 1,2-di(p-bromophenyl)-hydroxyethane | 0.02 mol, 7.2 g | BrC1=CC=C(C=C1)C(CC1=CC=C(C=C1)Br)O | C14H12Br2O
reactant | acetic anhydride | 0.2 mol, 20 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | 1,2-Di(p-bromophenyl)-1-acetoxyethane | 5.5 g | BrC1=CC=C(C=C1)C(CC1=CC=C(C=C1)Br)OC(C)=O | C16H14Br2O2
